US06451821B1
9.52 cm3 of acetic anhydride are added dropwise to 12 g of ethyl 2-amino-3-(3-nitrophenyl)propanoate at a temperature in the region of 0° C. After stirring at 0° C. for 1 hour, the mixture sets to a solid. 10 cm3 of acetic anhydride are then added and stirring is continued at 0° C. for a further 1 hour. The precipitate is filtered off on a sinter funnel, washed with 3 times 25 cm3 of water and dried in a fume cupboard and then in an oven under vacuum (10 Pa) at a temperature in the region of 50° C. 12 g of ethyl 2-(acetylamino)-3-(3-nitrophenyl)propanoate are obtained in the form of white crystals melting at 91° C. 1H NMR spectrum (250 MHz, (CD3)2SO-d6, δ in ppm): 1.14 (t, J=7 Hz: 3H); 1.80 (s: 3H); 3.04 (dd, J=14 and 9 Hz: 1H); 3.18 (t, J=14 and 4 Hz: 1H); 4.08 (q, J=7 Hz: 2H); 4.52 (mt: 1H); 7.61 (broad t, J=8 Hz: 1H); 7.72 (broad d, J=8 Hz: 1H); 8.12 (mt: 2H); 8.42 (d, J=8.5 Hz: 1H).

reactant | ethyl 2-amino-3-(3-nitrophenyl)propanoate | 12 g | NC(C(=O)OCC)CC1=CC(=CC=C1)[N+](=O)[O-] | C11H14N2O4
reactant | acetic anhydride | 10 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 9.52 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 2-(acetylamino)-3-(3-nitrophenyl)propanoate | 12 g | C(C)(=O)NC(C(=O)OCC)CC1=CC(=CC=C1)[N+](=O)[O-] | C13H16N2O5
